US07759370B2
4-(Octyloxy)-3-(trifluoromethyl)benzoic acid (D5)
1-octanol (315 μL, 2.0 mmol), THF (5 mL), potassium t-butoxide (5 mL, 1M solution in THF), 4-Fluoro-3-trifluoromethylbenzoic acid (417 mg, 2.0 mmol) were mixed and heated at 75° C. for 3-4 hrs. The reaction mixture was then diluted with ethyl acetate and washed with water. The water layer was acidified and extracted with ethyl acetate. The organic layer was washed with brine and dried over Na2SO4 and concentrated to afford the title compound (632 mg, HPLC purity >95%), which was used for next reaction without further purification. HPLC retention time on a C8(2) column (30×3.00 mm, 3μ) was 3.28 min with gradient 50-98% acetonitrile-H2O (0.1% trifluoroacetic acid (TFA)) in 3.5 min as mobile phase.

reactant | 1-octanol | 2.0 mmol, 315 μL | C(CCCCCCC)O | C8H18O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | potassium t-butoxide | 1M, 5 mL | CC(C)([O-])C.[K+]
reactant | 4-Fluoro-3-trifluoromethylbenzoic acid | 2.0 mmol, 417 mg | FC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H4F4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(Octyloxy)-3-(trifluoromethyl)benzoic acid | 632 mg | C(CCCCCCC)OC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C16H21F3O3
